US06887885B2
1-(3-Bromo-4-fluorophenyl)-5-methyl-1,5-dihydroimidazo[4,5-c]pyridin-4-one was coupled to 5-fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzonitrile, in the same way as in Example 1, to give 4,2′-difluoro-5′-(5-methyl-4-oxo-4,5-dihydroimidazo[4,5-c]pyridin-1-yl)biphenyl-2-carbonitrile as an off-white solid (360 mg, 55%): δH (400 MHz, d6-DMSO) 3.54 (3H, s), 6.67 (1H, d, J 7), 7.61 (1H, d, J 7), 7.69 (1H, t, J 9), 7.75-7.87 (4H, m), 8.09 (1H, dd, J 9 and 3), 8.38 (1H, s); m/z (ES+, 363 [MH+].

reactant | 1-(3-Bromo-4-fluorophenyl)-5-methyl-1,5-dihydroimidazo[4,5-c]pyridin-4-one | BrC=1C=C(C=CC1F)N1C=NC=2C(N(C=CC21)C)=O | C13H9BrFN3O
reactant | 5-fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzonitrile | FC=1C=CC(=C(C#N)C1)B1OC(C(O1)(C)C)(C)C | C13H15BFNO2
product | 4,2′-difluoro-5′-(5-methyl-4-oxo-4,5-dihydroimidazo[4,5-c]pyridin-1-yl)biphenyl-2-carbonitrile | 360 mg, 55% | FC=1C=C(C(=CC1)C1=C(C=CC(=C1)N1C=NC=2C(N(C=CC21)C)=O)F)C#N | C20H12F2N4O
